US06303636B1
To a solution of 2-amino-2-methylpropionic acid (2.0 grams, 19.4 mmole) in 1 N aqueous sodium hydroxide solution (45 mL) and dioxane (45 mL) was added 5-pyridin-2-ylthiophene-2-sulfonyl chloride (8.41 grams, 32.4 mmole). The resulting mixture was stirred at room temperature for 16 hours. Additional 1 N aqueous sodium hydroxide solution (45 mL) was added to the reaction mixture which was then extracted with diethyl ether. The organic extracts were discarded. The aqueous layer was acidified with 1 N hydrochloric acid solution and extracted with ethyl acetate. The ethyl acetate fractions were washed with brine, dried over magnesium sulfate and concentrated to afford 2-methyl-2-(5pyridin-2-ylthiophene-2-sulfonylamino)propionic acid as a white solid (2.18 grams, 34%).

reactant | 2-amino-2-methylpropionic acid | 19.4 mmole, 2.0 grams | NC(C(=O)O)(C)C | C4H9NO2
reactant | 5-pyridin-2-ylthiophene-2-sulfonyl chloride | 32.4 mmole, 8.41 grams | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
solvent | sodium hydroxide | 1 N, 45 mL | [OH-].[Na+]
solvent | dioxane | 45 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1 N, 45 mL | [OH-].[Na+]
product | 2-methyl-2-(5pyridin-2-ylthiophene-2-sulfonylamino)propionic acid | 2.18 grams, 34% | CC(C(=O)O)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1 | C13H14N2O4S2
